US04399141
Step B: Preparation of 10-isocyano-5-methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
To a solution of 10-amino-5-methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (8.1 g, 36.6 mmole) in chloroform (180 ml) was added sodium hydroxide pellets (4.42 g, 0.11 mole) benzyltriethylammonium chloride (0.42 g, 1.8 mmole) and water (0.5 ml). The mixture was stirred under nitrogen until the sodium hydroxide pellets dissolved (ca 4 hours), treated with anhydrous potassium carbonate, filtered, and evaporated to dryness in vacuo. The resulting oil was dissolved in chloroform (180 ml), treated with another 1.5 g (37.5 mmole) of sodium hydroxide and 0.2 g (0.86 mmole) of benzyltriethylammonium chloride, and stirred overnight under nitrogen. The mixture was again dried over potassium carbonate, filtered, and evaporated to dryness in vacuo. The resulting oil was chromatographed on 120 g of silica gel, and eluted with methylene chloride. The combined product fractions were evaporated to dryness in vacuo and the resulting solid was recrystallized from ether to give 4 g of solid, m.p. 96°-98°.

reactant | 10-amino-5-methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 36.6 mmole, 8.1 g | NC1CC2=C(C(C3=C1C=CC=C3)=C)C=CC=C2 | C16H15N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 0.5 ml | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 37.5 mmole, 1.5 g | [OH-].[Na+]
solvent | chloroform | 180 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | benzyltriethylammonium chloride | 0.11 mole, 4.42 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
catalyst | benzyltriethylammonium chloride | 0.86 mmole, 0.2 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 10-isocyano-5-methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 4 g | [N+](#[C-])C1CC2=C(C(C3=C1C=CC=C3)=C)C=CC=C2 | C17H13N
